US04224341
5-benzoyl-indan-2-carboxylic acid
To a 100 cm3 reaction vessel equipped with a stirrer and a cooler are successively added: 2.2 g (0.026 mole+50%) of potash dissolved in 40 cm3 of water and 7.3 g (0.026 mole) of methyl 5-benzoyl-indane-2-carboxylate dissolved in 40 cm3 of methanol. The mixture is heated at reflux temperature for 1 hour, the methanol evaporated and the mixture diluted with water; the alkaline mixture is then washed with ether and then acidified by the addition of hydrochloric acid. A precipitate forms which is filtered, washed with water and dried. After recrystallization from ethyl acetate the melting point is steady at 140°-142° C. (in a capillary tube).

reactant | potash | 0.026 mole, 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 5-benzoyl-indane-2-carboxylate | 0.026 mole, 7.3 g | C(C1=CC=CC=C1)(=O)C=1C=C2CC(CC2=CC1)C(=O)OC | C18H16O3
solvent | water | 40 cm3 | O | H2O
solvent | methanol | 40 cm3 | CO | CH4O
product | 5-benzoyl-indan-2-carboxylic acid | C(C1=CC=CC=C1)(=O)C=1C=C2CC(CC2=CC1)C(=O)O | C17H14O3
